US06670376B1
A mixture of 2-bromo-4-nitroanisole (5.80 g, 25.0 mmol) and 4-(aminomethyl)phenylboronic acid hydrochloride (4.96 g, 26.6 mmol) was slurried in 1-propanol (50 mL) under nitrogen. Triphenylphosphine (315 mg, 1.20 mmol) and palladium(II)acetate (90 mg, 0.40 mmol) were added, followed by 2.0N sodium carabonate (33 mL, 66 mmol). The mixture was heated at 95° C. (oil bath) under nitrogen for 3 hours, at which time the reaction was judged to be complete by TLC. Water (25 mL) was added and the mixture was stirred open to air for 2 hours at room temperature. The mixture was extracted with ethyl acetate (100 mL, 2×50 mL) and the combined extracts were washed with sodium bicarbonate (25 mL) and brine (25 mL). The solution was dried with sodium sulfate, and concentrated to an oil which was purified by flash chromatography on silica gel (100 g) eluting with 0-4% methanol/0,5% triethylamine/dichloromethane. Pure fractions were combined and concentrated to give 2-(4-aminomethylphenyl)-4-nitroanisole (4.6 g) as a yellow solid.

reactant | 2-bromo-4-nitroanisole | 25.0 mmol, 5.80 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | 4-(aminomethyl)phenylboronic acid hydrochloride | 26.6 mmol, 4.96 g | Cl.NCC1=CC=C(C=C1)B(O)O
reactant | sodium | 2.0N | [Na] | Na
reactant | Water | 25 mL | O | H2O
solvent | 1-propanol | 50 mL | C(CC)O | C3H8O
catalyst | palladium(II)acetate | 0.40 mmol, 90 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Triphenylphosphine | 1.20 mmol, 315 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-(4-aminomethylphenyl)-4-nitroanisole | 4.6 g | NCC1=CC=C(C=C1)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C14H14N2O3
